US06953790B2
Step C. Di-tert-butyl [(3R,6S)-6-(2,3-difluorophenyl)-7-(hydroxymethyl)-2-oxoazepan-3-yl]imidodicarbonate
To a solution (5S)-N2,N2-bis(tert-butoxycarbonyl)-5-(2,3-difluorophenyl)-6-(hydroxymethyl)-D-lysine (180 mg, 0.37 mmol) in DCM (5 mL) were added EDC (106 mg, 0.55 mmol) and HOAT (50 mg, 0.37 mmol). After 3,0 min, NaHCO3 was added, the layers separated and the aqueous phase backwashed with DCM. The combined organics were dried over magnesium sulfate, filtered and concentrated and the residue purified by silica gel chromatography (0%→10% MeOH/DCM) to give the title compound (100 mg). MS 471.1 (M+1).

reactant | (5S)-N2,N2-bis(tert-butoxycarbonyl)-5-(2,3-difluorophenyl)-6-(hydroxymethyl)-D-lysine | 0.37 mmol, 180 mg | C(C)(C)(C)OC(=O)N([C@H](CC[C@H](C(N)CO)C1=C(C(=CC=C1)F)F)C(=O)O)C(=O)OC(C)(C)C | C23H34F2N2O7
reactant | EDC | 0.55 mmol, 106 mg
reactant | HOAT | 0.37 mmol, 50 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | Di-tert-butyl [(3R,6S)-6-(2,3-difluorophenyl)-7-(hydroxymethyl)-2-oxoazepan-3-yl]imidodicarbonate | 100 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(NC1CO)=O)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C23H32F2N2O6
